US07351719B2
144) 2-(2-chloro-4-trifluoromethyl-phenoxy)-N-[4-(2-dimethylamino-acetylamino)-phenyl]-acetamide
Prepared analogously to Example 143 starting from (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid (Z2b) and N-(4-amino-phenyl)-2-dimethylamino-acetamide.

reactant | (2-chloro-4-trifluoromethyl-phenoxy)-acetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)C(F)(F)F | C9H6ClF3O3
reactant | N-(4-amino-phenyl)-2-dimethylamino-acetamide | NC1=CC=C(C=C1)NC(CN(C)C)=O | C10H15N3O
product | 2-(2-chloro-4-trifluoromethyl-phenoxy)-N-[4-(2-dimethylamino-acetylamino)-phenyl]-acetamide | ClC1=C(OCC(=O)NC2=CC=C(C=C2)NC(CN(C)C)=O)C=CC(=C1)C(F)(F)F | C19H19ClF3N3O3
